US07714010B2
b) 3-(1-Methyl-1H-imidazol-2-yl)-propionic acid methyl ester
(E)-3-(1-Methyl-1H-imidazol-2-yl)-acrylic acid methyl ester (0.86 g) is dissolved in MeOH (10 ml) and hydrogenated at 3 bar at RT for 2 h using Pd/C (10%, 0.1 g) as catalyst. After filtration and evaporation of the solvent the compound (0.87 g) is obtained.

reactant | (E)-3-(1-Methyl-1H-imidazol-2-yl)-acrylic acid methyl ester | 0.86 g | COC(\C=C\C=1N(C=CN1)C)=O | C8H10N2O2
solvent | MeOH | 10 ml | CO | CH4O
catalyst | Pd/C | 0.1 g | [Pd] | Pd
product | 3-(1-Methyl-1H-imidazol-2-yl)-propionic acid methyl ester | COC(CCC=1N(C=CN1)C)=O | C8H12N2O2
